US04394508
3-{2-[(5-Dimethylaminomethyl-2-furyl)methylthio]ethylamino}-4-{2-[3-isoxazolylmethylthio]ethylamino}-1,2,5-thiadiazole 1,1-dioxide
When a methanolic suspension of 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide is reacted with one equivalent of 2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamine according to the procedure described in Example 17, Step A, and the resultant product is treated with one equivalent of 2-[(3-isoxazolylmethylthio]ethylamine, the title compound is thereby produced.

reactant | 3,4-dimethoxy-1,2,5-thiadiazole 1,1-dioxide | COC1=NS(N=C1OC)(=O)=O | C4H6N2O4S
reactant | 2-[(5-dimethylaminomethyl-2-furyl)methylthio]ethylamine | one equivalent | CN(C)CC1=CC=C(O1)CSCCN | C10H18N2OS
reactant | (3-isoxazolylmethylthio]ethylamine | O1N=C(C=C1)CSCCN | C6H10N2OS
product | 3-{2-[(5-Dimethylaminomethyl-2-furyl)methylthio]ethylamino}-4-{2-[3-isoxazolylmethylthio]ethylamino}-1,2,5-thiadiazole 1,1-dioxide | CN(C)CC1=CC=C(O1)CSCCNC1=NS(N=C1NCCSCC1=NOC=C1)(=O)=O | C18H26N6O4S3
